US07589205B2
I1. 2,2-Dibromo-1-(3-ethoxy-4-methoxyphenyl)ethene
According to the General Procedure F, carbon tetrabromide (3.70 g, 11.10 mmol), triphenylphosphine (5.82 g, 22.20 mmol) and 3-Ethoxy-4-methoxybenzaldehyd (2.00 g, 11.10 mmol) are converted to give after workup and chromatography (SiO2, CH2Cl2, Rf=0.55) the title compound (3.37 g, 10.03 mmol) as a pale yellow solid. M.p. 41-42° C.;

reactant | carbon tetrabromide | 11.10 mmol, 3.70 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 22.20 mmol, 5.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-Ethoxy-4-methoxybenzaldehyd | 11.10 mmol, 2.00 g | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,2-Dibromo-1-(3-ethoxy-4-methoxyphenyl)ethene | 10.03 mmol, 3.37 g | BrC(=CC1=CC(=C(C=C1)OC)OCC)Br | C11H12Br2O2
